US05527819
Step A: 3-Phenythioindole-2-carboxamide
The title compound was prepared from 3-phenylthioindole-2-carboxylic acid (prepared according to the procedure described by Atkinson, J. G. et al., Synthesis, p. 480-481 (1988), (4.01 g, 0.015 mol), ammonia (large excess), and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate (7.2 g, 0.016 mol) in dimethylformamide according to the general procedure described in Example 1 for the preparation of N-(3-pyridylmethyl)-5-chloro-3-phenylthio-2-carboxamide. The title compound was obtained as a pale yellow solid.

reactant | 3-phenylthioindole-2-carboxylic acid | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)C(=S)O | C15H11NOS
reactant | ammonia | 0.015 mol, 4.01 g | N | H3N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate | 0.016 mol, 7.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Phenythioindole-2-carboxamide | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)C(=S)N | C15H12N2S
